US04478849
N-(2-[4-Carbomethoxyphenyl]ethyl)-2-hydroxy-2-phenylethanamine
Phenyl glyoxal (0.8 g) and 2-(4-carbomethoxyphenyl) ethanamine (1.1 g) were heated in refluxing benzene (100 ml) under a Dean and stark head until the theoretical amount of water had been collected. The solvent was replaced with methanol and sodium borohydride (2.0 g) was added portionwise with ice cooling. The mixture was stirred for 2 hours, the solvent was evaporated and the residue was partitioned between water and ethyl acetate. The dried organic extract was evaporated and crystallised from benzene/hexane, mp 105°-106°. (CDCl3) 6.80-7.60 (8H, m), 6.18 (3H, s), 5.34 (1H, m), 2.94 (2H, d, J=8 Hz), 2.77 (5H, m), 2.09 (2H, d, J=8 Hz).

reactant | Phenyl glyoxal | 0.8 g | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 2-(4-carbomethoxyphenyl) ethanamine | 1.1 g | C(=O)(OC)C1=CC=C(C=C1)CCN | C10H13NO2
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-(2-[4-Carbomethoxyphenyl]ethyl)-2-hydroxy-2-phenylethanamine | C(=O)(OC)C1=CC=C(C=C1)CCNCC(C1=CC=CC=C1)O | C18H21NO3
